US08084448B2
A. 3-(3-Benzyloxy-4-nitrophenoxy)-1,3,4,5-tetrahydrobenzo[b]azepin-2-one
A mixture of 3-benzyloxy-4-nitrophenol (2.45 g, 10 mmol), 3-bromo-1,3,4,5-tetrahydrobenzo[b]azepin-2-one (2.4 g, 10 mmol) and potassium carbonate (3.1 g, 23 mmol) in MeCN (10 mL) is refluxed for 10 h. Upon cooling a precipitate forms. The solid is filtered, washed with water and crystallized from EtOAc to give the title compound: mp=188-189° C.

reactant | 3-benzyloxy-4-nitrophenol | 10 mmol, 2.45 g | C(C1=CC=CC=C1)OC=1C=C(C=CC1[N+](=O)[O-])O | C13H11NO4
reactant | 3-bromo-1,3,4,5-tetrahydrobenzo[b]azepin-2-one | 10 mmol, 2.4 g | BrC1CCC2=C(NC1=O)C=CC=C2 | C10H10BrNO
reactant | potassium carbonate | 23 mmol, 3.1 g | C([O-])([O-])=O.[K+].[K+]
solvent | MeCN | 10 mL | CC#N | C2H3N
product | 3-(3-Benzyloxy-4-nitrophenoxy)-1,3,4,5-tetrahydrobenzo[b]azepin-2-one | C(C1=CC=CC=C1)OC=1C=C(OC2CCC3=C(NC2=O)C=CC=C3)C=CC1[N+](=O)[O-] | C23H20N2O5
